US04822805
A mixture of 2-(5-Chloro-4-methylamino-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (0.50 g) and 10% palladium on carbon (7.5 g) in a mixture of triethylamine (0.64 ml) and methanol (20 ml) was hydrogenated at ambient temperature under atmospheric pressure of hydrogen gas. After removal of the insoluble substance by filtration, the filtrate was evaporated under reduced pressure. The residue was triturated in diisopropyl ether to give 4-methyl-2-(4-methylamino-2-methoxyphenyl)-5-(3-pyridyl)imidazole (0.10 g).

reactant | 2-(5-Chloro-4-methylamino-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.50 g | ClC=1C(=CC(=C(C1)C=1NC(=C(N1)C)C=1C=NC=CC1)OC)NC | C17H17ClN4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 7.5 g | [Pd] | Pd
solvent | triethylamine | 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 4-methyl-2-(4-methylamino-2-methoxyphenyl)-5-(3-pyridyl)imidazole | 0.10 g | CC=1N=C(NC1C=1C=NC=CC1)C1=C(C=C(C=C1)NC)OC | C17H18N4O
